US05389641
9g) 2-Butyl-1-[[4-[2-(1H-tetrazol-5-yl)benzo[b]furan-3-yl]phenyl]methyl]benzimidazole-7-carboxylic acid
A solution of methyl 2-butyl-1-[[4-[2-(1H-tetrazol-5-yl)benzo[b]furan-3-yl]phenyl]methyl]benzimidazole-7-carboxylate (1.1 g) 1N aqueous NaOH (12 ml) in methanol (50 ml) was stirred at room temperature for 24 hours. After evaporation of methanol, the residue was neutralized with 1N aqueous hydrochloric acid to precipitate crystals. Recrystallization from DMF-methanol afforded colorless crystals (0.82 g, 77%), m.p. 194°-195° C.

reactant | methyl 2-butyl-1-[[4-[2-(1H-tetrazol-5-yl)benzo[b]furan-3-yl]phenyl]methyl]benzimidazole-7-carboxylate | 1N, 12 ml, 1.1 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C3=C(OC1C1=NN=NN1)C=CC=C3)C(=CC=C2)C(=O)OC | C29H26N6O3
solvent | methanol | 50 ml | CO | CH4O
product | 2-Butyl-1-[[4-[2-(1H-tetrazol-5-yl)benzo[b]furan-3-yl]phenyl]methyl]benzimidazole-7-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C3=C(OC1C1=NN=NN1)C=CC=C3)C(=CC=C2)C(=O)O | C28H24N6O3
